* C:\Users\Si Teng Wu\OneDrive - University of Cape Town\2024\EEE4022S\IOT_Retro_Display_EEE4022S\LTspice\Led Driver.asc
C1 N012 0 1µ
V1 N011 0 PULSE(0 3.3 0 0 0 90u 100u)
Q1 VOUT N014 N013 0 Q2sd882
V2 N001 0 5
V3 N010 0 5
R2 N012 N011 10k
D2 N008 VOUT D
R1 N001 N003 100k
V4 N016 0 5
V11 N015 0 5
XU1 N017 N016 N015 AO3401A
R6 N017 0 1
XU3 N008 N003 N001 AO3401A
R3 N013 0 100
R4 N013 0 100
R5 N013 0 100
R7 N013 0 100
XU2 N012 N013 N010 0 N014 LT1001
R9 0 0 100Meg
R10 0 N003 1k
D1 N009 VOUT D
R11 N001 N004 10k
XU4 N009 N004 N001 AO3401A
R12 N006 0 100Meg
R13 N006 N004 1k
D3 N007 VOUT D
R14 N001 N002 10k
XU5 N007 N002 N001 AO3401A
R15 N005 0 100Meg
R16 N005 N002 1k
R8 N013 0 100
.model D D
.lib C:\Users\Si Teng Wu\OneDrive - University of Cape Town\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Si Teng Wu\OneDrive - University of Cape Town\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model Q2sd882 NPN(Is=282f Xti=3 Eg=1.11 Vaf=100 Bf=200.7 Ise=288.7f Ne=1.368 Ikf=20 Nk=1.235 Xtb=1.5 Var=100 Br=52.37 Isc=8.515p Nc=1.527 Ikr=.2617 Rc=15.88m Cjc=166.3p Mjc=.4069 Vjc=.3905 Fc=.5 Cje=291.8p Mje=.3606 Vje=.75 Tr=10n Tf=1.551n Itf=1 Xtf=0 Vtf=10)
.lib LM358.lib
.tran 100m
.lib AO3401A.mod
.lib LTC.lib
.backanno
.end
